US08067621B2
3-[4-(4-Chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-yl]-propionitrile
A solution of 4-(4-chloro-benzenesulfonyl)-5,8-difluoro-3-(2-iodo-ethyl)-chroman (3.47 g, 6.94 mmol) in CH3CN (70 mL) was treated with n-Bu4NCN (2.2 g, 8.0 mmol). After 12 h, the reaction mixture was diluted with 1N HCl and extracted with Et2O (3×). The combined organic extracts were washed with 1N HCl (2×), saturated aqueous NaHCO3, brine, dried over MgSO4 and concentrated in vacuo to afford the title compound (2.6 g, 94%): 1H NMR (CDCl3 400 MHz) δ 7.74 (dd, J=8.8, 2.2 Hz, 2H), 7.55 (dd, J=8.8, 2.2 Hz, 2H), 7.07 (m, 1H), 6.46 (m, 1H), 4.99 (dd, J=12.4, 2.9 Hz, 1H), 4.34 (dd, J=12.4, 2.2 Hz, 1H), 4.32 (s, 1H), 2.99 (t, J=6.6 Hz, 1H), 2.47 (t, J=7.3 Hz, 2H), 1.76 (m, 1H), 1.65 (m, 1H).

reactant | 4-(4-chloro-benzenesulfonyl)-5,8-difluoro-3-(2-iodo-ethyl)-chroman | 6.94 mmol, 3.47 g | ClC1=CC=C(C=C1)S(=O)(=O)C1C(COC2=C(C=CC(=C12)F)F)CCI | C17H14ClF2IO3S
reactant | CH3CN | 70 mL | CC#N | C2H3N
solvent | HCl | 1N | Cl | ClH
product | 3-[4-(4-Chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-yl]-propionitrile | 2.6 g, 94% | ClC1=CC=C(C=C1)S(=O)(=O)C1C(COC2=C(C=CC(=C12)F)F)CCC#N | C18H14ClF2NO3S
